### PR TITLE
Chapter 10 E01, 02, 03, 04, 05 various changes

### PR DESCRIPTION
**Pull request by archiebrowne**
Apologies for large PR, will PR as I go next time (wasn't sure how to split the commits to separate PR's)

E01 : simple formatting
E02 : statement of part a
E03 : Statement of al parts, proof of part a
E04 : statement of all parts, proof of last part with one sorry 
E05 : statement of all parts, proof of parts a and c

### CODE REVIEW

File: STATUS.md [hunk 1]
```diff
@@ -49,9 +49,15 @@ Ex 1 : done
...
+## Chapter 9
 
-No statements have been formalised here
+No statements have been formalised here.
+
+## Chapter 10
+
+Ex 1 : done
+
+## Chapters 11-12
```
Comment (kbuzzard) [inline STATUS.md:64]:
```suggestion
## Chapters 11-12

nothing formalised
```

File: M1FExplained/Chapter10/Exercises/Exercise03.lean [hunk 2]
```diff
@@ -0,0 +1,78 @@
...
+
+(Since the train leaves every 7 hours and we are using 24 hour time) 
+-/
+
+-- Useful result for the proof of part a
+def Int.modEq_sub_fac {a b n : ℤ} (c : ℤ) (ha : a ≡ b [ZMOD n]) : a - n * c ≡ b [ZMOD n] := by
+  convert Int.modEq_add_fac (-c) ha using 1
+  ring
+
+lemma part_a (x : ℕ) (hx : 24 > x) : ∃ (m : ℕ), x + 7 * m ≡ 9 [MOD 24] := by
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise03.lean]:
```suggestion
lemma part_a (x : ℕ) (hx : x < 24) : ∃ (m : ℕ), x + 7 * m ≡ 9 [MOD 24] := by
```
Mathlib uses < instead of > if at all possible (at least that was the convention in lean 3, maybe in lean 4 it's less important...)

File: M1FExplained/Chapter10/Exercises/Exercise03.lean [hunk 3]
```diff
@@ -0,0 +1,78 @@
...
+/- 
+A train leaves for St. Petersburg from Moscow every 7 hours. 
+Show that some days it is possible to catch this train at 9:00 am
+-/
+
+/- 
+Given that the train leaves at x o'clock on some day, we wish 
+to show that it is possible for it to leave at 9:00 am eventually.
+i.e there is some multiple of 7 we can add to x so that it is 
+congrueng to 9 modulo 24.
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise03.lean]:
```suggestion
congruent to 9 modulo 24. 
```

File: M1FExplained/Chapter10/Exercises/Exercise03.lean [hunk 4]
```diff
@@ -0,0 +1,78 @@
...
+Moscow once every 14 hours.
+-/
+
+/-
+gcd(24, 14) = 2, hence if a train leaves 12 for Vladivostock, then it is possible to catch a train
+at any even hour on some day. Similarly if a train leaves at 11, it is possible to catch a train
+at any odd hour.
+-/
+
+lemma part_c_i (t y : ℕ) (h : 24 > t ∧ 24 > y) (hpara : Even t ∧ Even y) : ∃ (m : ℕ), t + 14 * m ≡ y [MOD 24] := by sorry
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise03.lean]: Same for these > and those in the next lemma

File: M1FExplained/Chapter10/Exercises/Exercise04.lean [hunk 5]
```diff
@@ -0,0 +1,34 @@
+import Mathlib.Tactic
+
+namespace Chapter10.Exercise04
+
+lemma helper (m n : ℤ) (hmn : m * n = 1) : (m = 1 ∧ n = 1) ∨ (m = -1 ∧ n = -1) := by sorry
+
+lemma part_a (n : ℕ) (hn : n > 0) : Nat.gcd (6 * n + 8) (4 * n + 5) = 1 := by sorry
+
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise04.lean:10]: I would start with `zify` or somehow translating the question into one about integers.

File: M1FExplained/Chapter10/Exercises/Exercise04.lean [hunk 6]
```diff
@@ -0,0 +1,34 @@
...
+lemma part_b (a b : ℤ) (hab : a ∣ b) (hba : b ∣ a) : a = b ∨ a = -b := by sorry
+
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise04.lean:13]: I'd be tempted to try `exact?` for this one

File: M1FExplained/Chapter10/Exercises/Exercise03.lean [hunk 7]
```diff
@@ -0,0 +1,78 @@
...
+
+lemma part_a (x : ℕ) (hx : 24 > x) : ∃ (m : ℕ), x + 7 * m ≡ 9 [MOD 24] := by
+  use 7 * (33 - x)
+  rw [← Int.coe_nat_modEq_iff]
+  push_cast
+  rw [Nat.cast_sub (show x ≤ 33 by linarith)]
+  ring_nf
+  rw [show (48 : ℤ) = 2 * 24 by norm_num, ← mul_assoc, mul_comm]
+  apply Int.modEq_sub_fac
+  norm_num
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise03.lean:38]: This would be a nice proof to document -- why not leave a few comments in the proof?

File: M1FExplained/Chapter10/Exercises/Exercise04.lean [hunk 8]
```diff
@@ -0,0 +1,34 @@
...
+lemma part_c (s t a b : ℤ) (h : s * a + t * b = 1) : Int.gcd a b = 1 := by 
+  let M : ℤ := Int.gcd a b
+  have h₁ : M ∣ a := by exact gcd_dvd_left a b
+  have h₂ : M ∣ b := by exact gcd_dvd_right a b
+  match h₁ with
+  |⟨k₁, hk₁⟩ =>
+  match h₂ with
+  |⟨k₂, hk₂⟩ =>
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise04.lean:66]: Can you match them both in one line? (I'm not sure)

File: M1FExplained/Chapter10/Exercises/Exercise04.lean [hunk 9]
```diff
@@ -0,0 +1,34 @@
...
+  rw [hk₁, hk₂] at h
+  have hM : M ∣ 1 := by
+    use s * k₁ + t * k₂ 
+    apply Eq.symm
+    calc
+      M * (s * k₁ + t * k₂) = s * (M * k₁) + t * (M * k₂) := by ring
+      _ = 1 := by exact h
+  have : M = 1 := by sorry
+  simp at this
+  assumption
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise04.lean:86]: Maybe you should update STATUS to say stuff like "half done" or "half done but Archie working on it" or whatever. That way we can keep track.

File: M1FExplained/Chapter10/Exercises/Exercise05.lean [hunk 10]
```diff
@@ -0,0 +1,56 @@
...
+  have hxm : 1 = x * a + m * b := by rw [←Int.gcd_eq_gcd_ab x m, hx]; norm_cast
+  have hym : 1 = y * c + m * d := by rw [←Int.gcd_eq_gcd_ab y m, hy]; norm_cast
+  have h   : 1 = x * y * a * c + (x * a * d + b * y * c + m * b * d) * m := by
+    calc 
+      1 = 1 * 1 := by norm_num
+      _ = (x * a + m * b) * (y * c + m * d) := by nth_rewrite 1 [hxm]; rw [hym]
+      _ = x * a * y * c + x * a * m * d + m * b * y * c + m * b * m * d := by ring
+      _ = x * y * a * c + (x * a * d + b * y * c + m * b * d) * m := by ring
+  /- Need lemma saying that if ∃ s, t : a * s * b * t = 1, then gcd(a, b) = 1, this is Q4C -/
+  sorry
```
Comment (kbuzzard) [inline M1FExplained/Chapter10/Exercises/Exercise05.lean:52]: You can probably just import it with `import M1FExplained.Chapter10.Exercises.Exercise04` I guess.

**Review by kbuzzard — COMMENTED** [review]
Thanks a lot! I left a few minor comments but this looks almost good to go.

**Comment by archiebrowne** [comment]
okay thanks! I've updated your changes - those that are fixing sorries I will put in a new PR

**Review by kbuzzard — APPROVED** [review]
Thanks!
